US07582703B2
4-Bromobutyl-dimethyl-ethoxysilane
800 g of 4-bromo-1-butene were reacted with 15% excess of dimethylethoxysilane (939 ml). In a 2 l reactor 0.5 g of Ru3(CO)12 and 800 ml of 4-bromo-1-butene were brought under nitrogen and 939 ml of dimethylethoxysilane were added under nitrogen and the mixture was brought at 65° C. After 0.5 h the bath temperature was raised to 80° C. and the mixture was allowed to react overnight. After distillation 1329 g (93.7%) of 4-bromobutyl-dimethyl-ethoxysilane were isolated.

reactant | dimethylethoxysilane | 939 ml | C[SiH](OCC)C | C4H12OSi
reactant | dimethylethoxysilane | 939 ml | C[SiH](OCC)C | C4H12OSi
reactant | 4-bromo-1-butene | 800 ml | BrCCC=C | C4H7Br
reactant | 4-bromo-1-butene | 800 g | BrCCC=C | C4H7Br
catalyst | Ru3(CO)12 | 0.5 g | [C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Ru].[Ru].[Ru]
product | 4-Bromobutyl-dimethyl-ethoxysilane | BrCCCC[Si](OCC)(C)C | C8H19BrOSi
